US04654360
Toluenesulfinyl chloride was prepared according to Org. Syn., IV, 937 on half the scale described (that is, on 0.1 mole sodium toluenesulfinate). The crude sulfinyl chloride (15.2 g) was added dropwise to 11 g of indole dissolved in dichloromethane (200 ml) at 0° C. in the presence of 20 g of sodium bicarbonate. After 30 min at room temperature, the reaction mixture was washed well with saturated sodium bicarbonate solution, the phases separated and the organic phase dried and evaporated. The crude material was applied to a short silica gel column. Elution with dichloromethane removed a large amount of non-polar material. The product was removed with ethyl acetate. Upon recrystallization from ethyl acetate, the compound had melting point 120.5-121.5 (dec.) (corr.).

reactant | sodium toluenesulfinate | 0.1 mole | C=1(C(=CC=CC1)S(=O)[O-])C.[Na+]
reactant | sulfinyl chloride | 15.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | indole | 11 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium bicarbonate | 20 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Toluenesulfinyl chloride | C=1(C(=CC=CC1)S(=O)Cl)C | C7H7ClOS
